US04055642
b. 2-(1-Methyl-5-nitro-2-imidazolyl)-4-chloroquinazolin
A suspension of 25 g of 2-(1-methyl-5-nitro-2-imidazolyl)-4-quinazolinone and 26.2 g of phosphorus pentachloride in 150 ml of phosphorus oxychloride is boiled for 3 hours and then evaporated in vacuo (12 Torr). The residue is taken up in methylene chloride and stirred with water for one hour at room temperature. The mixture is made alkaline with sodium bicarbonate and extracted by dropwise addition of methylene chloride. The mixture is dried with magnesium sulphate and treated with animal charcoal, filtered and evaporated in vacuo (12 Torr) at 30° C. The residue is mixed with ether, filtered and washed pure with ether to obtain the heading compound, m.p. 178°-181° C.

reactant | 2-(1-methyl-5-nitro-2-imidazolyl)-4-quinazolinone | 25 g | CN1C(=NC=C1[N+](=O)[O-])C1=NC2=CC=CC=C2C(N1)=O | C12H9N5O3
reactant | phosphorus pentachloride | 26.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(1-Methyl-5-nitro-2-imidazolyl)-4-chloroquinazolin | CN1C(=NC=C1[N+](=O)[O-])C1=NC2=CC=CC=C2C(=N1)Cl | C12H8ClN5O2
